US05994356
(3) 1-(4-n-Butyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride
Prepared from 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride and n-butanol.

reactant | 1-(4-carboxymethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C(=O)(O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(4-n-Butyloxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.C(CCC)OC(=O)COC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1 | InChI=1S/C23H37N3O3.2ClH/c1-2-3-18-28-23(27)19-29-22-6-4-21(5-7-22)26-16-14-25(15-17-26)13-10-20-8-11-24-12-9-20;;/h4-7,20,24H,2-3,8-19H2,1H3;2*1H
